US08476197B2
A solution of ethyl (2Z)-2-cyano-3-[3-(difluoromethyl)-1-methyl-1H-pyrazol-4-yl]-3-{[1-(1,3-thiazol-2-yl)ethyl]amino}acrylate (0.122 g, 0.32 mmol, 1 eq.) in 3 ml of toluene was treated with ethylamine (1 M solution in tetrahydrofurane, 0.96 ml, 0.96 mmol, 3 eq.) and AlMe3 (1 M solution in toluene, 0.96 ml, 0.96 mmol, 3 eq.). The reaction was microwaved at 110° C. for 1800s (fixed hold, high absorption). The reaction was quenched with aqueous saturated NH4Cl and extracted with ethylacetate. The organic layers were combined and dried over MgSO4 and concentrated under vacuum. The residue was purified by chromatography on silica gel to give (2Z)-2-cyano-N-cyclopropyl-3-[3-(difluoromethyl)-1-methyl-1H-pyrazol-4-yl]-3-{[1-(1,3-thiazol-2-yl)ethyl]amino}acrylamide (0.068 g, 51% yield) as a mixture of atropoisomers.

reactant | ethyl (2Z)-2-cyano-3-[3-(difluoromethyl)-1-methyl-1H-pyrazol-4-yl]-3-{[1-(1,3-thiazol-2-yl)ethyl]amino}acrylate | 0.32 mmol, 0.122 g, 1 eq. | C(#N)/C(/C(=O)OCC)=C(/NC(C)C=1SC=CN1)\C=1C(=NN(C1)C)C(F)F | C16H17F2N5O2S
reactant | ethylamine | 0.96 mmol, 1 M, 0.96 ml, 3 eq. | C(C)N | C2H7N
reactant | AlMe3 | 0.96 mmol, 1 M, 0.96 ml, 3 eq. | C[Al](C)C
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | (2Z)-2-cyano-N-cyclopropyl-3-[3-(difluoromethyl)-1-methyl-1H-pyrazol-4-yl]-3-{[1-(1,3-thiazol-2-yl)ethyl]amino}acrylamide | 0.068 g, 51% yield | C(#N)/C(/C(=O)NC1CC1)=C(/NC(C)C=1SC=CN1)\C=1C(=NN(C1)C)C(F)F | C17H18F2N6OS
